US05814648
B: 2-(3-tert-Butyldimethylsilyloxy-2-fluorophenyl)-4,5-dihydro-5(R)-phenyloxazole
To a solution of 2-(3-tert-butyldimethylsilyloxy-2-fluorobenzamido)-1(S)-phenylethanol (4.6 g, 12 mmol) and triphenylphosphine (3.7 g, 14 mmol) in THF (50 ml) was added dropwise a solution of diethyl azodicarboxylate (2.2 ml, 42 mmol) in THF (20 ml). After stirring for 1 h, volatiles were removed by evaporation. The residue was purified by column chromatography on silica gel eluting with hexane-ethyl acetate (13:1 to 9:1) to afford the title compound (2.2 g, 50%) as a pale yellow liquid.

reactant | 2-(3-tert-butyldimethylsilyloxy-2-fluorobenzamido)-1(S)-phenylethanol | 12 mmol, 4.6 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C(=O)NC[C@@H](O)C2=CC=CC=C2)C=CC1)F | C21H28FNO3Si
reactant | triphenylphosphine | 14 mmol, 3.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 42 mmol, 2.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-tert-Butyldimethylsilyloxy-2-fluorophenyl)-4,5-dihydro-5(R)-phenyloxazole | 2.2 g, 50% | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C=CC1)C=1O[C@@H](CN1)C1=CC=CC=C1)F | C21H26FNO2Si
